US20010027196A1
(2-Amino-5-cyano-6-phenyl-pyrimidin-4-ylsulfanyl)-acetic acid benzyl ester
From 2-amino-4-phenyl-6-thioxo-1,6-dihydro-pyrimidine-5-carbonitrile, benzyl chloroacetate and sodium methylate in methanol. ES-MS m/e (%): 399 (M+Na+, 40), 377 (M+H+, 100).

reactant | 2-amino-4-phenyl-6-thioxo-1,6-dihydro-pyrimidine-5-carbonitrile | NC=1NC(C(=C(N1)C1=CC=CC=C1)C#N)=S | C11H8N4S
reactant | benzyl chloroacetate | ClCC(=O)OCC1=CC=CC=C1 | C9H9ClO2
reactant | sodium methylate | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | (2-Amino-5-cyano-6-phenyl-pyrimidin-4-ylsulfanyl)-acetic acid benzyl ester | C(C1=CC=CC=C1)OC(CSC1=NC(=NC(=C1C#N)C1=CC=CC=C1)N)=O | C20H16N4O2S
